US09334278B2
N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (38 mg, 83.6 μmol) was dissolved in dichloromethane (1.5 mL) and treated with trifluoroacetic acid (191 mg, 129 μL, 1.67 mmol). After 16 h, the mixture was concentrated and the residue re-dissolved in dichloromethane (1.5 mL), methanol (0.75 mL) and ammonium hydroxide (0.2 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated then triturated with water and filtered to obtain a solid. This was washed with ether then dried to give N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (16 mg, 49.3 μmol, 59%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.33 (s, 1H), 8.64 (d, J=2.5, 1 H), 8.40 (dd, J=4.7, 1.2, 1 H), 8.05 (d, J=3.1, 1 H), 7.96 (s, 1H), 7.92 (s, 1H), 7.82 (m, 1H), 7.46 (m, 1H), 3.50 (s, 3H), 1.32 (s, 9H); MS (EI/CI) m/z: 325.1 [M+H].

reactant | N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 83.6 μmol, 38 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N(C=2C=NC=CC2)C)COCC[Si](C)(C)C | C23H34N6O2Si
reactant | trifluoroacetic acid | 1.67 mmol, 129 μL, 191 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(methyl(pyridin-3-yl)amino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 49.3 μmol, 16 mg, 59% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)N(C=2C=NC=CC2)C | C17H20N6O
